US07723329B2
A solution of toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester (0.338 g, 0.522 mmol) and diethylamine (1.0 mL, 9.7 mmol) in THF (8 mL) was stirred at 70° C. in a sealed tube for 2 hours. Additional diethylamine (1.0 mL, 9.7 mmol) added, and the reaction mixture was stirred at 80° C. in a sealed tube for 2 hours. A third portion of diethylamine (1.0 mL, 9.7 mmol) was added to the reaction mixture, and it was stirred at 80° C. in a sealed tube for 30 hours. The reaction mixture was then solvent evaporated and partitioned in ethyl acetate and brine. It was dried with anhydrous magnesium sulfate, filtered and concentrated. Drying at 80° C. in vacuo for 20 minutes yielded {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-diethyl-amine as a light brown semi-solid (0.278 g, 97.2%). It was dissolved in chloroform, and ethereal hydrochloride was added. The mixture was concentrated and dried in vacuo at 82° C. for 14 hours. The result was the hydrochloride as a brown foam (0.275 g); Mass Spectrum (+EI, [M+H]+) m/z 548. 1HNMR (500 MHz, DMSO-d6): δ9.86-9.88 (s, 1H), 8.72-8.75 (m, 1H), 8.56 (dd, 1H, J=7.44 Hz and 1.22 Hz), 8.27 (d, 1H, J=8.30 Hz), 8.02-8.05 (m, 1H), 7.82 (d, 1H, J=9.15 Hz), 7.70-7.74 (m. 1H), 7.57-7.63 (m, 2H), 7.29 (d, 1H, J=2.20 Hz), 7.24-7.26 (m, 1H), 7.15-7.21 (m, 3H), 7.03 (d, 1H, J=7.68 Hz), 5.73 (s, 2H), 4.35-4.38 (m, 2H), 3.49 (d, br, 2H, J=4.52 Hz), 3.14-3.25 (m, 4H), 1.19-1.23 ppm (m, 6H). Elemental Analysis for C30H30ClN3O3S.1.00 HCl.0.55 mol H2O: Calcd: C, 60.61; H, 5.44; N, 7.07; Found: C, 60.21; H, 5.44; N, 6.73.

reactant | toluene-4-sulfonic acid 2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl ester | 0.522 mmol, 0.338 g | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCOS(=O)(=O)C2=CC=C(C=C2)C)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C33H27ClN2O6S2
reactant | diethylamine | 9.7 mmol, 1.0 mL | C(C)NCC | C4H11N
reactant | diethylamine | 9.7 mmol, 1.0 mL | C(C)NCC | C4H11N
reactant | diethylamine | 9.7 mmol, 1.0 mL | C(C)NCC | C4H11N
reactant | THF | 8 mL | C1CCOC1 | C4H8O
product | {2-[1-(3-chloro-benzyl)-3-(naphthalene-1-sulfonyl)-1H-indazol-5-yloxy]-ethyl}-diethyl-amine | 0.278 g, 97.2% | ClC=1C=C(CN2N=C(C3=CC(=CC=C23)OCCN(CC)CC)S(=O)(=O)C2=CC=CC3=CC=CC=C23)C=CC1 | C30H30ClN3O3S
